US08314087B2
4-(1-Bromopropan-2-yloxy)-7-methoxyquinoline.
To a stirred solution of 1-(7-methoxyquinolin-4-yloxy)propan-2-ol (235 mg, 1007 μmol) and 2-(7-methoxyquinolin-4-yloxy)propan-1-ol (235 mg, 1007 μmol) (mixture of isomers) in CH2Cl2 (3 mL) was added phosphorus tribromide (94.7 μl, 1007 μmol). The mixture was heated to reflux for 18 h. The mixture was quenched with 5% NaHCO3, and was extracted with CH2Cl2 (3×5 mL). The combined organics were dried over MgSO4 and concentrated to a white solid (150 mg) under reduced pressure. MS (ESI pos. ion) m/z (MH+): 296/298. Calc'd exact mass for C13H14BrNO2: 295.

reactant | 1-(7-methoxyquinolin-4-yloxy)propan-2-ol | 1007 μmol, 235 mg | COC1=CC=C2C(=CC=NC2=C1)OCC(C)O | C13H15NO3
reactant | 2-(7-methoxyquinolin-4-yloxy)propan-1-ol | 1007 μmol, 235 mg | COC1=CC=C2C(=CC=NC2=C1)OC(CO)C | C13H15NO3
reactant | phosphorus tribromide | 1007 μmol, 94.7 μl | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Bromopropan-2-yloxy)-7-methoxyquinoline | BrCC(C)OC1=CC=NC2=CC(=CC=C12)OC | C13H14BrNO2
